US04003927
2-Cyclopentyl-6-methoxy-7,8-dichloro-1-tetralone (6.58 g., 0.02 mole) is mixed with pyridine hydrochloride (60 g.) and the mixture is heated at 180° C. for one hour. The mixture is poured into water (ca. 400 ml.). The solid that separates is collected, washed with water and air dried to obtain 2-cyclopentyl-6-hydroxy-7,8-dichloro-1-tetralone.

reactant | 2-Cyclopentyl-6-methoxy-7,8-dichloro-1-tetralone | 0.02 mole, 6.58 g | C1(CCCC1)C1C(C2=C(C(=C(C=C2CC1)OC)Cl)Cl)=O | C16H18Cl2O2
reactant | pyridine hydrochloride | 60 g | Cl.N1=CC=CC=C1
solvent | water | ca. 400 ml | O | H2O
product | 2-cyclopentyl-6-hydroxy-7,8-dichloro-1-tetralone | C1(CCCC1)C1C(C2=C(C(=C(C=C2CC1)O)Cl)Cl)=O | C15H16Cl2O2
